US07081470B2
(3E)-3-[(4-METHYLPHENYL)IMINO]-1-(3-THIENYL)-1,3-DIHYDRO-2H-INDOL-2-ONE
A solution of 1-(3-Thienyl)-1H-indole-2,3-dione (20 mg, 0.087 mmol) in 1% HOAc/MeOH (8 mL) was added to a solution of p-toluidine (19 mg, 0.18 mmol) in 1% HOAc/MeOH (8 mL). The reaction mixture was stirred for 12 h at room temperature, heated at 50° C. for 1 h, and concentrated in vacuo. The residue was purified by preparative TLC on silica using EtOAc/hexanes (3:7, 0.1% TEA) giving the desired product (14 mg, 50%).

reactant | 1-(3-Thienyl)-1H-indole-2,3-dione | 0.087 mmol, 20 mg | S1C=C(C=C1)N1C(C(C2=CC=CC=C12)=O)=O | C12H7NO2S
reactant | p-toluidine | 0.18 mmol, 19 mg | NC1=CC=C(C=C1)C | C7H9N
solvent | HOAc MeOH | 8 mL | CC(=O)O.CO
solvent | HOAc MeOH | 8 mL | CC(=O)O.CO
product | (3E)-3-[(4-METHYLPHENYL)IMINO]-1-(3-THIENYL)-1,3-DIHYDRO-2H-INDOL-2-ONE | 14 mg, 50% | CC1=CC=C(C=C1)\N=C/1\C(N(C2=CC=CC=C12)C1=CSC=C1)=O | C19H14N2OS
